Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([c:2]1[c:3]([H:10])[o:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([C+:2]=[C:3]([O-:4])[H:10])([H:7])([H:8])[H:9].[N:5]#[N:6],32.2591207556442
[C:1]([N:7]1[C:3](=[C:2]([H:11])[H:12])[C+:4]([H:13])[N:5]([H:14])[N-:6]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],53.053597312558075
[C:1]1([H:8])([H:9])[C:2](=[O:3])[N:4]([H:10])[C:5]([H:7])([H:11])[N:6]1[H:12]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],80.8205620158992
[C:2](=[C:3]([O:4][H:12])[C:5]#[N:6])([H:9])[H:10].[N:1]([H:7])([H:8])[H:11]>>[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],57.915096579038405
[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](/[C:3]([O:4][H:12])=[N:5]\[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],39.944972118825795
[C:1]([N:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[O:5])[H:12])([H:6])([H:7])[H:8]>>[C:1]([N:2]=[C:3]([H:9])[H:11])([H:6])([H:7])[H:8].[C:4](=[O:5])([H:10])[H:12],81.42366899571529
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([H:10])=[C:3]([H:11])[C:4]1([C:5]#[C:6][H:14])[H:13],99.9304592398484
[O+:1](=[C:2]([C:3]#[C-:4])[H:7])[C:5]#[N:6]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7],33.816280329507904
[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])(=[O:6])[H:12].[H:11][H:16]>>[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9],53.38406187597644
[C@@:1]12([H:8])[C:2]#[C:3][C:4]([H:9])=[C:5]([H:10])[C@:6]1([H:11])[O:7]2>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8],9.878247207009693
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16]>>[C:1]1([H:8])=[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:15])=[C:6]1[H:16].[H:7][H:14],90.2685460076094
[C:1]([C:2]([O:3][C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([H:9])[H:10])([H:6])[H:7].[O:3]=[C:4]([O:5][H:8])[H:11],40.1728412338336
[N:1]([c:2]1[c:3]([H:9])[o:4][n:5][n:6]1)([H:7])[H:8]>>[N:1]([C:2]1=[C:3]([H:9])[N+:5]([O-:4])=[N:6]1)([H:7])[H:8],100.176570658562
[C:1](/[C:3](=[C:2]1[C:4](=[N:5]/[H:12])/[O:6][C:7]/1([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],129.51260143970387
[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8]>>[C:5](#[N+:6][O-:7])[H:9].[O:1]=[C:2]([C:3]#[N:4])[H:8],54.114904480865896
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1([O:4][H:13])[C:5](=[O:6])[H:14].[H:9][H:12],74.0534486352974
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14]>>[C:1]1([H:7])([H:8])[C:2]([C:6](=[C:5]([H:12])[H:13])[H:14])([H:9])[C:3]([H:10])([H:11])[O:4]1,80.7717626639288
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[C:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:6](=[C:5])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],58.4515195965934
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][N:7]=[C:6]=[C:4]=[N:5][H:13])([H:11])[H:12])([H:8])([H:9])[H:10],91.05852191261049
[C:1]([C:2]1=[C:6]([H:14])[C:5]([H:12])([H:13])[O:4]1)([H:8])([H:9])[H:10].[N:3](=[O:7])[H:11]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],47.419089271215796
[O:1][C:2](=[N:3])[C@@:7]1([H:12])[C@:5]([C:4]([H:8])([H:9])[H:10])([H:11])[O:6]1>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12],4.696334224670707
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6]>>[O:1]([C@@:2]([C:3]([H:8])([H:9])[H:11])([C:4](=[O:5])[H:10])[H:7])[H:6],48.484121411629296
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O:1]([C@:2]12[C:3]([H:7])([H:8])[N:4]3[C@@:5]1([H:10])[C@:6]23[H:11])[H:9],102.955618192906
[C:1](=[C:2]([O:3][H:12])[C:4](=[O:5])[C:6](=[C:7]([H:11])[H:13])[H:9])([H:8])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],96.49680573376511
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3][H:11])([C:4]([H:12])([H:13])[H:14])[O:5][C:6](=[O:7])[H:15])([H:8])([H:9])[H:10],65.9711088200054
[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4](=[C:5])[H:8])([H:6])[H:7],44.4735569081886
[C:1]([C@:2]1([C:4](=[C:3]([H:11])[H:12])[O:5][H:13])[C:6]([H:14])([H:15])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10],61.247604068540205
